US05294734
19.0 g (77.5 mmol) of 2-formylamino-3-hydroxy-6-methoxy-4-methylene-hexanoic acid ethyl ester are dissolved in 190 ml of 1,2-dichloroethane, and 7.20 ml (93.0 mmol) of thionyl bromide are added dropwise at room temperature. After 45 minutes, 100 ml of water are added and the mixture is stirred vigorously for 10 minutes. The organic phase is separated off, washed in succession with water, 1N potassium hydrogen carbonate solution and again with water, dried over sodium sulfate, filtered and concentrated by evaporation. 4-bromomethyl-2-formylamino-6-methoxy-hex-3-enoic acid ethyl ester is obtained in the form of a reddish-brown oil.

reactant | 2-formylamino-3-hydroxy-6-methoxy-4-methylene-hexanoic acid ethyl ester | 77.5 mmol, 19.0 g | C(C)OC(C(C(C(CCOC)=C)O)NC=O)=O | C11H19NO5
reactant | thionyl bromide | 93.0 mmol, 7.20 ml | S(=O)(Br)Br | Br2OS
reactant | water | 100 ml | O | H2O
solvent | 1,2-dichloroethane | 190 ml | ClCCCl | C2H4Cl2
product | 4-bromomethyl-2-formylamino-6-methoxy-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCOC)CBr)NC=O)=O | C11H18BrNO4
